* File: myHA.pex.netlist.pex
* Created: Wed Nov 27 14:07:32 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYHA%VDD! 2 3 13 14 15 16 17 20 24 26 40 42 64 66 67 69 74
c66 74 GND 0.00739825f
c67 69 GND 0.050444f
c68 67 GND 0.00611642f
c69 66 GND 0.00957002f
c70 65 GND 0.0023228f
c71 64 GND 0.00238329f
c72 62 GND 0.00238329f
c73 52 GND 0.00187783f
c74 42 GND 0.00984831f
c75 40 GND 0.0197463f
c76 31 GND 0.00365664f
c77 26 GND 0.0109296f
c78 24 GND 0.00862597f
c79 20 GND 0.00873211f
c80 17 GND 0.0114282f
c81 16 GND 0.00580259f
c82 15 GND 0.00608796f
c83 14 GND 0.0048867f
c84 13 GND 0.00477084f
c85 3 GND 0.00846464f
c86 2 GND 0.00585927f
r87 74 79 0.179245
r88 73 74 88.2939
r89 70 76 0.116923
r90 69 73 6.53393
r91 69 70 88.2939
r92 57 67 0.160909
r93 53 66 0.0418175
r94 52 67 0.0418175
r95 51 66 0.160909
r96 51 52 0.488571
r97 43 65 0.171069
r98 42 44 0.212696
r99 42 43 0.584615
r100 41 64 0.160909
r101 40 67 0.160909
r102 40 41 2.44286
r103 36 65 0.0335492
r104 33 64 0.0418175
r105 32 62 0.160909
r106 31 64 0.160909
r107 31 32 0.542857
r108 28 62 0.0418175
r109 27 76 0.140061
r110 26 65 0.171069
r111 26 27 1.92923
r112 25 79 0.0461384
r113 24 62 0.160909
r114 24 25 1.00429
r115 20 70 0.315339
r116 17 57 1.20786
r117 16 44 0.817
r118 15 53 1.20786
r119 14 36 0.817
r120 13 20 0.355571
r121 3 33 1.20514
r122 2 28 1.20514
.ends

.subckt PM_MYHA%GND! 1 3 11 12 15 16 19 21 38 42 53 54 56 57 60 61
c62 61 GND 0.0108733f
c63 60 GND 0.0152422f
c64 57 GND 0.00383579f
c65 56 GND 0.0452569f
c66 54 GND 0.0191036f
c67 53 GND 0.00537165f
c68 50 GND 0.00235221f
c69 48 GND 0.00365664f
c70 42 GND 0.0166425f
c71 38 GND 0.00531535f
c72 19 GND 0.0189168f
c73 15 GND 0.00555333f
c74 11 GND 0.00514769f
c75 3 GND 0.00504926f
c76 1 GND 0.00479057f
r77 60 61 88.2939
r78 58 60 0.982143
r79 56 58 0.139738
r80 56 57 3.96552
r81 54 67 0.304717
r82 53 54 88.2939
r83 51 57 0.139738
r84 51 53 0.571429
r85 49 61 1.03143
r86 49 50 0.160909
r87 47 50 0.160909
r88 47 48 0.542857
r89 42 48 0.212317
r90 38 50 0.0418175
r91 33 54 0.228651
r92 29 67 0.228651
r93 26 67 0.0358491
r94 23 26 0.304717
r95 19 23 0.0627358
r96 19 21 0.199614
r97 16 42 0.800714
r98 15 33 0.787143
r99 12 38 0.800714
r100 11 29 0.787143
r101 3 26 0.800714
r102 1 23 0.800714
.ends

.subckt PM_MYHA%A 1 3 10 13 15 17 19 23 25 26 29 32 35 42
c63 42 GND 0.0579903f
c64 35 GND 0.0011816f
c65 29 GND 0.0180156f
c66 26 GND 0.00228909f
c67 25 GND 0.0115971f
c68 23 GND 0.0235742f
c69 17 GND 0.0274251f
c70 16 GND 0.00396468f
c71 15 GND 0.0847706f
c72 13 GND 0.0180959f
c73 10 GND 0.0352371f
c74 1 GND 0.0223995f
r75 41 42 77.0449
r76 35 36 77.0449
r77 32 35 0.266
r78 30 42 14.82
r79 27 42 98.0014
r80 27 29 1.11957
r81 25 36 3.69474
r82 25 26 0.530495
r83 21 29 2.93485
r84 21 23 29.25
r85 17 29 2.93485
r86 17 19 33.93
r87 15 30 4.51741
r88 15 16 190.71
r89 11 26 5.4228
r90 11 13 32.37
r91 8 26 5.4228
r92 8 10 26.13
r93 7 16 4.35808
r94 7 10 66.3
r95 3 41 1.22414
r96 1 41 1.22143
.ends

.subckt PM_MYHA%COUT 1 3 10
c10 1 GND 0.0192656f
r11 3 10 0.852286
r12 1 10 1.59329
.ends

.subckt PM_MYHA%NET11 1 2 11 12 17 18 19 22 29 30 33 34
c77 34 GND 2.09065e-19
c78 33 GND 0.0134881f
c79 30 GND 0.0165604f
c80 29 GND 0.00205323f
c81 22 GND 0.0137872f
c82 19 GND 0.0227457f
c83 18 GND 0.00156142f
c84 17 GND 0.00402586f
c85 12 GND 0.00429517f
c86 11 GND 0.00533156f
c87 2 GND 0.0284502f
c88 1 GND 0.0235742f
r89 32 33 5.67077
r90 31 34 0.0501704
r91 30 32 0.212317
r92 30 31 2.92308
r93 28 34 0.151219
r94 28 29 0.665
r95 24 34 0.151219
r96 22 35 6.06667
r97 21 22 77.0449
r98 19 33 0.212696
r99 19 21 3.01286
r100 17 29 0.212696
r101 17 18 0.76
r102 13 18 0.212696
r103 12 24 0.472286
r104 11 13 0.461429
r105 8 35 2.67087
r106 5 35 2.67087
r107 2 8 33.93
r108 1 5 29.25
.ends

.subckt PM_MYHA%B 1 5 9 11 14 16 17 20 21 23 26 29 30 32 34 35 42 46 50 65 68
c79 68 GND 0.0124492f
c80 65 GND 7.50437e-19
c81 50 GND 0.00206007f
c82 46 GND 0.0372498f
c83 42 GND 0.00104611f
c84 35 GND 0.00697509f
c85 34 GND 0.00945708f
c86 32 GND 0.0225697f
c87 30 GND 0.00538533f
c88 29 GND 0.00242342f
c89 26 GND 0.0235742f
c90 21 GND 0.00271854f
c91 20 GND 0.0284617f
c92 17 GND 0.00473557f
c93 16 GND 0.028855f
c94 14 GND 0.0315175f
c95 12 GND 0.00572799f
c96 11 GND 0.0260883f
c97 9 GND 0.0149599f
c98 5 GND 0.0226146f
c99 1 GND 0.0199571f
r100 68 74 12.5357
r101 67 68 77.0449
r102 55 67 0.106158
r103 51 65 0.0418175
r104 50 67 0.106158
r105 49 65 0.160909
r106 49 50 0.542857
r107 46 47 77.0449
r108 44 65 0.160909
r109 44 46 4.72014
r110 38 42 0.263286
r111 38 39 77.0449
r112 35 55 1.20786
r113 34 51 1.20786
r114 30 39 1.56
r115 28 39 3.51
r116 28 29 0.631437
r117 24 32 5.21812
r118 24 26 29.25
r119 21 23 27.69
r120 20 32 5.21812
r121 20 23 33.93
r122 17 47 4.5483
r123 16 21 4.51741
r124 15 68 0.458085
r125 15 16 52.9286
r126 14 74 0.458085
r127 13 14 58.2214
r128 12 30 4.6839
r129 11 13 4.44021
r130 11 12 44.3182
r131 7 29 5.62096
r132 7 9 19.11
r133 3 29 5.62096
r134 3 5 38.61
r135 1 17 27.69
.ends

.subckt PM_MYHA%S 1 3 9 10 21 22 23 26 29 34 38 49 50 51
c26 51 GND 4.67936e-20
c27 49 GND 1.18485e-19
c28 38 GND 0.00366616f
c29 29 GND 0.00663717f
c30 26 GND 0.00662072f
c31 23 GND 0.00664892f
c32 21 GND 0.00667018f
c33 3 GND 0.00663354f
c34 1 GND 0.00663081f
r35 45 51 0.151219
r36 42 50 0.176429
r37 39 49 0.151219
r38 36 51 0.0501704
r39 36 38 0.906154
r40 35 50 0.204615
r41 35 38 1.22769
r42 34 50 0.204615
r43 33 49 0.0501704
r44 33 34 0.584615
r45 29 51 0.151219
r46 26 50 0.176429
r47 23 49 0.151219
r48 22 29 0.977143
r49 21 45 1.11286
r50 10 26 0.979857
r51 9 23 0.979857
r52 3 42 1.11286
r53 1 39 1.11286
.ends

.subckt PM_MYHA%XI2/BBAR 1 3 6 7 8 10 12 16 20 21 22 26
c41 36 GND 0.00235221f
c42 30 GND 0.00365664f
c43 27 GND 0.00486989f
c44 26 GND 0.0505156f
c45 22 GND 0.00787593f
c46 21 GND 0.0176238f
c47 20 GND 0.00296678f
c48 16 GND 0.00695212f
c49 12 GND 0.0179913f
c50 3 GND 0.0190942f
r51 29 36 0.160909
r52 29 30 0.542857
r53 26 27 77.0449
r54 24 36 0.160909
r55 24 26 4.72014
r56 22 30 0.212317
r57 22 23 0.556429
r58 20 21 2.13385
r59 16 36 0.0418175
r60 10 20 0.108554
r61 10 23 0.104142
r62 8 12 2.33429
r63 7 21 0.109222
r64 7 12 0.103474
r65 6 16 0.800714
r66 3 27 4.5483
r67 1 3 23.01
.ends

